US08476264B2
Intermediate XXIX-1 was obtained following general procedure L: Starting from rac-(3aR,6aR)-3-difluoromethyl-5,5-difluoro-4,5,6,6a-tetrahydro-3aH-cyclopenta[d]isoxazole, the reaction with 1-bromo-2-fluoro-benzene yielded the product rac-(3S,3aR,6aR)-3-difluoromethyl-5,5-difluoro-3-(2-fluoro-phenyl)-hexahydro-cyclopenta[d]isoxazole as a light brown oil. MS: m/z=294.4 [M+H]+.

reactant | rac-(3aR,6aR)-3-difluoromethyl-5,5-difluoro-4,5,6,6a-tetrahydro-3aH-cyclopenta[d]isoxazole | FC(C1=NOC2C1CC(C2)(F)F)F | C7H7F4NO
reactant | 1-bromo-2-fluoro-benzene | BrC1=C(C=CC=C1)F | C6H4BrF
product | rac-(3S,3aR,6aR)-3-difluoromethyl-5,5-difluoro-3-(2-fluoro-phenyl)-hexahydro-cyclopenta[d]isoxazole | FC(C1(NOC2C1CC(C2)(F)F)C2=C(C=CC=C2)F)F | C13H12F5NO
